US05942511
Synthesis of 1-ethoxy-4-allylthio-5,6,7,8-tetrahydrophthalazine
0.23 g(0.01 mol) of metallic sodium was dissolved in 100 ml of absolute methanol and then mixed with 0.93 ml (0.01 mol) of allylmercaptan. To this mixture was added 2.13 g(0.01 mol) of 1-ethoxy-4-chloro-5,6,7,8-tetrahydro-phthalazine obtained from Preparation 9. The reaction solution was refluxed for 3 hours and then treated according to the same manner as Example 1 to obtain the title compound as a freezing white crystal.

reactant | sodium | 0.01 mol, 0.23 g | [Na] | Na
reactant | allylmercaptan | 0.01 mol, 0.93 ml | C(C=C)S | C3H6S
reactant | 1-ethoxy-4-chloro-5,6,7,8-tetrahydro-phthalazine | 0.01 mol, 2.13 g | C(C)OC1=NN=C(C=2CCCCC12)Cl | C10H13ClN2O
solvent | methanol | 100 ml | CO | CH4O
product | 1-ethoxy-4-allylthio-5,6,7,8-tetrahydrophthalazine | C(C)OC1=NN=C(C=2CCCCC12)SCC=C | C13H18N2OS
